* C:\Users\Surya\Documents\projects\electronics\huwaei\model.asc
Vb Vbat 0 3.35
C1 N003 N001 1000
C2 N001 N002 700
R0 Vload N003 0.5
R1 N003 N001 0.1
R2 N001 N002 0.3
I§Vl Vload 0 PWL file=dsg_pwl_i.txt
C3 N002 Vbat 2000k ic=0
R3 N002 0 140
.tran 0 12000 0 1
.backanno
.end
