*.title BatteryModel
Vb Vbat 0 10
C1 N002 N001 C
C2 N001 Vbat 10µ
R0 Vload N002 R
R1 N002 N001 R
R2 N001 Vbat 100
I§Vl Vload 0 PULSE(100m 0 10m 10m 10m 40m 100m)